US05114944
2-(4-Chlorophenyl-N,N-dipropylpyrazolo[1,5-a]pyrimidine-3-acetamide
A mixture of 3.5 g (0.012 mole) of 2-(4-chlorophenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid and 3.2 g (0.015M) of 1,1'-carbonyldiimidazole (75%) in 150 ml of dry tetrahydrofuran was stirred under nitrogen for 30 minutes, then nitrogen was bubbled through the solution for 3 hours. The reaction mixture was treated with 1.2 g (0.012 mole) of dipropylamine and stirred for 16 hours. The reaction mixture was concentrated in vacuo. The crude residue was dissolved in 50 ml of methylene chloride and washed with water, saturated sodium bicarbonate, and again with water, then dried over magnesium sulfate and concentrated in vacuo to a solid residue (3.9 g). Recrystallization from 2-propyl ether:hexane yielded 3.4 g (76.4%) of pale yellow crystals, mp 104°-106° C.

reactant | 2-(4-chlorophenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.012 mole, 3.5 g | ClC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.015M, 3.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.012 mole, 1.2 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-Chlorophenyl-N,N-dipropylpyrazolo[1,5-a]pyrimidine-3-acetamide | 3.4 g, 76.4% | ClC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1CC(=O)N(CCC)CCC | C20H23ClN4O
